US08614215B2
Intermediate 66: 4-Methoxy-1-[2-(methylthio)ethyl]-2-nitrobenzene
A suspension of 1-(2-bromoethyl)-4-methoxy-2-nitrobenzene (14.7 g, 0.06 mol) in EtOH (150 mL) is stirred at 25-26° C. under a nitrogen atmosphere. Sodium thiomethoxide (7.9 g, 0.1 mol) is added in one portion at 25-26° C. and the reaction mixture is heated to reflux for 12 h. The solvent is removed under reduced pressure and the brown residue is taken up in cold water (100 mL). The crude product is extracted with EtOAc (2×200 mL). The organic layer is washed with water and brine (200 mL, each), then dried over Na2SO4 and the solvent is removed under reduced pressure to afford a brown oil. The crude product is purified by column chromatography (60-120 mesh silica gel, eluent 2% EtaAc in petrol ether) to give 8.3 g (67%) of the title compound as light brown liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.47-7.45 (m, 2H), 7.20-724(m 1H,), 3.81 (s, 3H), 3.01-2.97 (m, 2H), 2.69-2.66 (m, 2H), 2.05 (s, 3H). LC/MS: (ES+) 227.9.

reactant | 1-(2-bromoethyl)-4-methoxy-2-nitrobenzene | 0.06 mol, 14.7 g | BrCCC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C9H10BrNO3
reactant | Sodium thiomethoxide | 0.1 mol, 7.9 g | C[S-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | 4-Methoxy-1-[2-(methylthio)ethyl]-2-nitrobenzene | 8.3 g, 67% | COC1=CC(=C(C=C1)CCSC)[N+](=O)[O-] | C10H13NO3S
